data/mechanisms/records/IMS8-EQ8.64.json
{"mechanism_id": "IMS8-EQ8.64", "species": [{"species_id": "trimethylcyclohexanone_molecular_ion", "mapped_smiles": "[O+:1]=[C:2]1[CH:3]([1H:11])[C:4]([CH3:8])([CH3:9])[CH2:5][CH:6]([CH3:10])[CH2:7]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_acylium", "mapped_smiles": "[O+:1]#[C:2][CH:3]([1H:11])[C:4]([CH3:8])([CH3:9])[CH2:5][CH:6]([CH3:10])[CH2:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "h_shifted_distonic_acylium", "mapped_smiles": "[O+:1]#[C:2][CH:3][C:4]([CH3:8])([CH3:9])[CH2:5][CH:6]([CH3:10])[CH2:7][1H:11]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "unsaturated_acylium_83", "mapped_smiles": "[O+:1]#[C:2][CH:3]=[C:4]([CH3:8])[CH3:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "isobutyl_radical", "mapped_smiles": "[CH2:5][CH:6]([CH3:10])[CH2:7][1H:11]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["trimethylcyclohexanone_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_distonic_acylium"]}, {"state_id": "state_h_shifted", "species_ids": ["h_shifted_distonic_acylium"]}, {"state_id": "state_products", "species_ids": ["unsaturated_acylium_83", "isobutyl_radical"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_h_rearrangement", "from_state": "state_ring_opened", "to_state": "state_h_shifted", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 11]}, "target": {"type": "bond", "atom_maps": [7, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 11]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_butyl_loss", "from_state": "state_h_shifted", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_ring_opening_8_64", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 186, "equation": "8.64", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures (\"Three bonds cleaved\")"}, "confidence": 0.85, "curator_note": "Substrate is the 3,3,5-trimethylcyclohexanone molecular ion; the page prints '+.' on the carbonyl oxygen with the C=O drawn intact, so the precursor mapped_smiles localizes charge and odd electron on O(1) (O+ with a double bond and no other ligand carries the one unpaired electron). Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = a fishhook from the odd electron on O(1) into the C(2)-O(1) bond; drawn arc 2 = a fishhook from the ring C(2)-C(7) sigma bond into that same C-O bond, which therefore rises from double to triple (acylium). The undrawn move 3 carries the second electron of the cleaved ring bond onto C(7); the book prints the radical dot there in the next structure. The cleaved bond is in the ring, so this step only OPENS the ring, giving the distonic acylium .CH2-CH(CH3)-CH2-C(CH3)2-CH2-C(triple bond)O+. Map numbers: 1 = O, 2 = carbonyl C, 3 = the retained alpha CH2 (later H donor), 4 = the gem-dimethyl quaternary carbon, 5 = the CH2 between it and C(6), 6 = the methine bearing the lone ring methyl, 7 = the alpha carbon cleaved off the carbonyl, 8/9 = the gem-dimethyl methyls, 10 = the C(6) methyl, 11 = the migrating hydrogen (isotope-tagged [1H:11] so it can carry an atom map; RDKit folds an untagged mapped H into implicit valence)."}, {"evidence_id": "evidence_step_rH_8_64", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_h_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 186, "equation": "8.64", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures (\"Three bonds cleaved\")"}, "confidence": 0.85, "curator_note": "The arrow is labelled 'rH' on the page. Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = a fishhook from the radical dot on the terminal carbon C(7) reaching left to the hydrogen the book writes out explicitly as 'H' on C(3); drawn arc 2 = a fishhook from that C(3)-H bond back to C(7), into the C(7)-H bond being formed. The undrawn move 3 leaves the second electron of the old C(3)-H bond on C(3), where the next structure simply shows the dot. Net: a 1,5-hydrogen shift (six-membered transition state C7-C6-C5-C4-C3 plus the H) that moves the radical site next to the acylium carbon while the terminal CH2. becomes CH3."}, {"evidence_id": "evidence_step_alpha_loss_8_64", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_butyl_loss", "support_type": "textbook_proposed", "locator": {"page": 186, "equation": "8.64", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures (\"Three bonds cleaved\")"}, "confidence": 0.85, "curator_note": "Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = a fishhook from the radical on C(3) into the forming C(3)=C(4) pi bond; drawn arc 2 = a fishhook from the C(4)-C(5) sigma bond into that same pi bond. The undrawn move 3 puts the second electron of the cleaved C(4)-C(5) bond on C(5); the book just draws the expelled fragment with its dot, an isobutyl (2-methylpropyl) radical, C4H9.. Products: the conjugated acylium (CH3)2C=CH-C(triple bond)O+ at m/z 83 (100%, the ion labelled on the page) plus C4H9.. Three bonds have been cleaved in total (the ring C-C, the C-H and this C-C), matching the 'Three bonds cleaved' heading under which the page places this equation, and the product is the heteroatom-stabilized EE+ ion the text says is 'quite useful for structural characterization'. The migrating hydrogen [1H:11] departs with the isobutyl radical, so the ion is one hydrogen lighter than a hypothetical H-free two-bond ring cleavage would give; that is recorded as hydrogen_shift = -1."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 140.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_83", "species_id": "unsaturated_acylium_83", "step_id": "step_alpha_butyl_loss", "observed_mz": 83.0491, "relative_intensity": 1.0, "hydrogen_shift": -1, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
